US06130229
8-Chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-one-6-oxide
A solution of 8-chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-one (250 mg) in acetic acid (5 ml) was stirred for 5 minutes. NaBO3 (105 mg) was added and the mixture was stirred for 7 hours. The reaction was quenched with 5% NaOH and extracted with CH2Cl2, and the extracts were washed with brine, dried (MgSO4), filtered and concentrated to afford a tan solid (270 mg). This was chromatographed on silica to afford the crude sulfoxide (250 mg) as a tan solid containing some starting material; MS (CI, M+H)=278.

reactant | 8-chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-one | 250 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)=O)C=C1 | C13H8ClNOS
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-one-6-oxide | 270 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2=O)=O)C=C1 | C13H8ClNO2S
